US09193692B2
C. 4-Bromo-2-fluoro-3-methylbenzonitrile
A mixture of dimethyl sulfoxide (400 mL) and potassium nitrite (22.67 g, 266 mmol) was stirred to dissolve potassium nitrite and 4-amino-2-fluoro-3-methylbenzonitrile (10 g, 66.6 mmol) and copper(I) bromide (1.911 g, 13.32 mmol) were added. Aqueous 48% hydrogen bromide (33 mL, 266 mmol), diluted with dimethyl sulfoxide (200 mL), was added dropwise and the reaction stirred for 2 h. After complete conversion of starting material, the reaction mixture was poured into iced-cold water and neutralized to pH 7 with cold concentrated sodium hydroxide. The resulting solid was collected by filtration to give the desired product (11.4 g, 53.3 mmol, 80% yield) as white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ (ppm) 7.47 (d, J=9.37 Hz, 1H), 7.33 (t, 1H), 2.39 (d, J=2.34 Hz, 3H).

reactant | potassium nitrite | 266 mmol, 22.67 g | N(=O)[O-].[K+]
reactant | 4-amino-2-fluoro-3-methylbenzonitrile | 66.6 mmol, 10 g | NC1=C(C(=C(C#N)C=C1)F)C | C8H7FN2
reactant | hydrogen bromide | 266 mmol, 33 mL | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
catalyst | copper(I) bromide | 13.32 mmol, 1.911 g | [Cu]Br
solvent | dimethyl sulfoxide | 400 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-Bromo-2-fluoro-3-methylbenzonitrile | 53.3 mmol, 11.4 g, 80% yield | BrC1=C(C(=C(C#N)C=C1)F)C | C8H5BrFN
